US06881743B2
2-Methoxy-pyridine-3,5-dicarboxylic acid bis-benzylamide
To a solution of 0.5 g (1.4 mmol) 2-Oxo-1,2-dihydro-pyridine-3,5-dicarboxylic acid bis-benzylamide in 10 mL of N,N-dimethylformamide (DMF) was added 0.25 g (1.9 mmol) diisopropylethylamine amine followed by 0.19 g (1.4 mmol) iodomethane. The resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with water and extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with saturated aqueous NaCl solution, and dried over MgSO4. The product was crystallized from ethyl acetate, providing 0.24 g (46% yield) of the title compound. MS: m/z (APCI, AP+) 376.3 [M.]+. CHN Analysis: Calcd: C, 70.38; H, 5.64; N, 11.19. Found: C, 70.05; H, 5.49; N, 10.89.

reactant | 2-Oxo-1,2-dihydro-pyridine-3,5-dicarboxylic acid bis-benzylamide | 1.4 mmol, 0.5 g | C(C1=CC=CC=C1)N(C(=O)C=1C(NC=C(C1)C(=O)O)=O)CC1=CC=CC=C1 | C21H18N2O4
reactant | iodomethane | 1.4 mmol, 0.19 g | IC | CH3I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Methoxy-pyridine-3,5-dicarboxylic acid bis-benzylamide | 0.24 g, 46% yield | C(C1=CC=CC=C1)N(C(=O)C=1C(=NC=C(C1)C(=O)O)OC)CC1=CC=CC=C1 | C22H20N2O4
